US08865706B2
(4R,4a R, 6R,8aS)-8a-(2,4-Difluorophenyl)-4-methyl-6-(1-methyl-1H-pyrazol-4-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine (16)
N-[(4R,4aR,6R,8aS)-8a-(2,4-Difluorophenyl)-4-methyl-6-(1,1,3,3-tetramethoxypropan-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C75) [prepared from P4 via a method similar to that used for the conversion of P1 to C44 in Preparation P3 and Example 5] (297 mg, 0.526 mmol) was combined with ethanol (1.75 mL) and methyl hydrazine (36.4 mg, 0.789 mmol) followed by addition of water (0.6 mL). Concentrated sulfuric acid (55 μL, 1.0 mmol) was slowly added and the reaction mixture was heated at 70° C. for 18 hours. Saturated aqueous sodium bicarbonate solution was added, and the aqueous layer was extracted three times with ethyl acetate; the combined organic layers were extracted three times with 0.2 M aqueous hydrochloric acid, and the combined aqueous layers were washed with ethyl acetate. The pH was adjusted to 9-10 by addition of 1 M aqueous sodium hydroxide solution, and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. Silica gel chromatography (Gradient: 0% to 15% methanol in dichloromethane) provided the product as an off-white solid. Yield: 109 mg, 0.287 mmol, 55%. LCMS m/z 379.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 7.48 (s, 1H), 7.36 (s, 1H), 7.22-7.28 (m, 1H), 6.85-6.92 (m, 2H), 4.57 (dd, J=11.3, 2.3 Hz, 1H), 4.16 (dd, J=11.1, 2.1 Hz, 1H), 3.76 (s, 3H), 3.69 (d, J=11.3, 1H), 3.01-3.06 (m, 1H), 2.78 (dt, J=11.9, 3.8 Hz, 1H), 1.75-1.80 (m, 1H), 1.59-1.68 (m, 1H), 1.10 (d, J=7 Hz, 3H).

reactant | N-[(4R,4aR,6R,8aS)-8a-(2,4-Difluorophenyl)-4-methyl-6-(1,1,3,3-tetramethoxypropan-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(S[C@@H]([C@@H]1C[C@@H](OC2)C(C(OC)OC)C(OC)OC)C)NC(C2=CC=CC=C2)=O | C28H34F2N2O6S
reactant | methyl hydrazine | 0.789 mmol, 36.4 mg | CNN | CH6N2
reactant | sulfuric acid | 1.0 mmol, 55 μL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 0.6 mL | O | H2O
solvent | ethanol | 1.75 mL | C(C)O | C2H6O
product | 8a-(2,4-Difluorophenyl)-4-methyl-6-(1-methyl-1H-pyrazol-4-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine | FC1=C(C=CC(=C1)F)C12N=C(SC(C1CC(OC2)C=2C=NN(C2)C)C)N | C18H20F2N4OS
